US08957073B2
2-(3-(3-(prop-1-yn-1-yl)pyrazin-2-yl)azetidin-1-yl)quinoline
A mixture of 2-(3-(3-chloropyrazin-2-yl)azetidin-1-yl)quinoline (0.200 g, 0.674 mmol), tributyl(prop-1-yn-1-yl)stannane (0.266 g, 0.809 mmol), and bis(tri-t-butylphosphine) palladium (o) (0.017 g, 0.034 mmol) in p-dioxane (4 mL) was heated at 100° C. in 16 h. The reaction mixture was cooled, concentrated, and purified by ISCO (0-60% EtOAc/Hexanes) to give the title compound (128 mg, 68%).

reactant | 2-(3-(3-chloropyrazin-2-yl)azetidin-1-yl)quinoline | 0.674 mmol, 0.200 g | ClC=1C(=NC=CN1)C1CN(C1)C1=NC2=CC=CC=C2C=C1 | C16H13ClN4
reactant | tributyl(prop-1-yn-1-yl)stannane | 0.809 mmol, 0.266 g | C(CCC)[Sn](C#CC)(CCCC)CCCC
solvent | p-dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tri-t-butylphosphine) palladium | 0.034 mmol, 0.017 g | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
product | 2-(3-(3-(prop-1-yn-1-yl)pyrazin-2-yl)azetidin-1-yl)quinoline | 128 mg, 68% | C(#CC)C=1C(=NC=CN1)C1CN(C1)C1=NC2=CC=CC=C2C=C1 | C19H16N4
